US03965146
A mixture of 1,123 g (6.6 moles) of biphenyl-4-ol. 396 g (6.0 moles) of potassium hydroxide (85%), 1,519 g (12.0 moles) of p-chlorotoluene, and a catalyst mixture consisting of 7.5 g of CuCl, 3.0 g of CuCl2, 3.0 g of CuCO3.Cu(OH)2H2O, 3.0 g of copper powder, and 18 g of activated alumina were heated to reflux with stirring for 15 hr. The reaction was conducted under a nitrogen blanket. Water of reaction was removed by azeotropic distillation, and when the pot temperature had reached 167°, 70 ml of dimethylacetamide, 6.0 g of CuCl, 3.0 g of CuCl2, 3.0 g of CuCo3. Cu(OH)2.H2O, 6.0 g of copper, and 14 g of alumina were added. Refluxing was continued for 4 hr. and approximately 20 ml of p-chlorotoluene was removed by distillation. After an additional 10 hr. of reflux the pot temperature was raised to 230° and 180 ml of p-chlorotoluene was distilled off. The reaction mixture was cooled to about 180° and then poured into ice water with stirring. The resulting precipitate was filtered, washed with water, and recrystallized from ethanol to give 1,303 g (5.0 moles, 76%) of p-biphenylyloxytoluene, mp 97° to 99°. Vacuum distillation followed by recrystallization from ethanol gave colorless platelets of mp 99° to 100° IR (KBr): 1270 cm-1 (aryl ether). A 988 g (3.8 moles) sample of this compound was dissolved in 7.5 liters of acetic acid, together with 94.5 g (0.38 mole) of cobalt acetate tetrahydrate, and 3.1 g (0.038 mole) of hydrobromic acid. Oxygen was passed through the solution with stirring and heating to 100°. After approximately 3 hours, the reaction was complete. After cooling to room temperature, the resulting crystalline precipitate was filtered and recrystallized from o-dichlorobenzene to give 799 g (2.75 moles, 72%) of colorless crystals, mp 243° to 244°, IR(KBr): 1700 cm-1 (acid carbonyl), 1280 cm-1 (aryl ether). Reaction of 798.0g (2.75 moles) of acid with 399.0 ml (5.50 moles) SOCl2 in 1500 ml benzene (containing 4 drops pyridine) at 60°-70° followed by vacuum distillation (up to 215° at 0.40 mm Hg) yielded 805.7 g (95.0%) colorless crystals of p-(4-biphenylyloxy) benzoyl chloride of mp 93.5°- 94.7° and a light-brown forecut of 20.86 g (2.46%).

reactant | biphenyl-4-ol | 6.6 moles, 1,123 g | C1(=CC=C(C=C1)O)C1=CC=CC=C1 | C12H10O
reactant | potassium hydroxide | 6.0 moles, 396 g | [OH-].[K+]
reactant | p-chlorotoluene | 12.0 moles, 1,519 g | ClC1=CC=C(C=C1)C | C7H7Cl
catalyst | CuCl | 7.5 g | Cl[Cu]
catalyst | copper | 3.0 g | [Cu] | Cu
solvent | Water | O | H2O
product | p-biphenylyloxytoluene | 5.0 moles, 1,303 g, 76% | C1(=C(C=CC=C1)OC1=C(C=CC=C1)C)C1=CC=CC=C1 | C19H16O
